Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Planned initiation of tube feeds
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx EtOH cirrhosis (most recent MELDNa 20, ___
Class C) c/b ascites, SBP on ppx, HE, HRS on midodrine, s/p
rou-en-Y gastric bypass c/b recurrent anastomotic c/b strictures
requiring multiple endoscopic dilations, and multiple abdominal
surgeries for bowel anastomosis complications (including bowel
perforation) now on TPN for nutrition who presents as direct
admission for initiation of G tube feeds.  
   
Patient was seen today in ___ clinic today by Dr. ___.
She was initially started on TPN at the end ___ after being
unable to tolerate G and J tube feeds due to functional ileus
(multiple imaging studies negative for mechanical obstruction).
She is currently on 1400mL TPN at home over 14 hours (which was
tapered down on ___. She has recently been able to tolerate a
small amount of PO intake which consists of carnation instant
breakfast, fresh fruit, yogurt, rice, fish, and chicken. She
reports 2 episodes of n/v over the last month and stable, 
chronic
abdominal pain. She manages this with tramadol and dilaudid on a
PRN basis but does not use them every day. She is having
consistent BMs with usually ___ loose stools daily.

Denies fevers, chills, cough, confusion, hematemesis, and 
melena.
 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy (Raven ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy (___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications 
 
Social History:
___
Family History:
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 98.4 100/65 86 18 98 Ra 
GENERAL: Pleasant, alert, and interactive. NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, ___ systolic ejection murmur best heard at
LUSB, no gallops or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles. Slightly decreased breath
sounds at bases bilaterally.  
ABDOMEN: Firm in upper abdomen, with appreciable hepatomegaly.
Capped G tube in place in epigastrium, site C/D/I without
surrounding erythema or induration. Bandage covering site of
previous J tube. Bandage C/D/I, without surrounding erythema or
induration. Tender to palpation of lower abdomen, without
guarding or rebound. +BS.
EXTREMITIES: no cyanosis, clubbing, or edema. Surgical scar
dorsal aspect of L ankle.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. No
asterixis.
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAMINATION:
VS: 98.0 104/59 79 18 96 Ra  
GENERAL: Pleasant, alert, and interactive. NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, ___ systolic ejection murmur best heard at
LUSB, no gallops or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles. Slightly decreased breath
sounds at bases bilaterally.  
ABDOMEN: Firm in upper abdomen, with appreciable hepatomegaly. G
tube in place in epigastrium, site C/D/I without surrounding
erythema or induration. Bandage covering site of previous J 
tube.
Bandage C/D/I, without surrounding erythema or induration. Mild
tenderness to palpation of lower abdomen, without guarding or
rebound. +BS.
EXTREMITIES: no cyanosis, clubbing. Vertical surgical scar 
dorsal
aspect of L ankle. Trace pitting edema of L ankle > R ankle.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. No
asterixis.
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
==============
___ 05:10AM BLOOD WBC-7.7 RBC-2.01* Hgb-7.6* Hct-22.6* 
MCV-112* MCH-37.8* MCHC-33.6 RDW-16.4* RDWSD-67.5* Plt Ct-76*
___ 05:10AM BLOOD ___ PTT-35.9 ___
___ 05:10AM BLOOD Glucose-78 UreaN-32* Creat-0.9 Na-131* 
K-4.1 Cl-94* HCO3-27 AnGap-10
___ 05:10AM BLOOD ALT-26 AST-78* LD(LDH)-166 AlkPhos-109* 
TotBili-3.8*
___ 05:10AM BLOOD Albumin-2.7* Calcium-8.3* Phos-3.6 Mg-1.7

IMAGING:
=======
CT CHEST W/O CONTRAST ___:
FINDINGS:  
  
No incidental thyroid findings.  No supraclavicular, 
infraclavicular or 
axillary lymphadenopathy.  There is a moderate interval decrease 
in size of the pre-existing mediastinal lymphadenopathy.  This 
is most obvious in 
para-aortic location (2, 15) As well as in right perihilar 
location (2, 18). There is stable enlargement of the main 
pulmonary artery, likely reflecting pulmonary hypertension.  
Stable appearance of the calcified coronary arteries. Stable 
appearance of the heart.  Moderate degenerative vertebral 
disease.  No vertebral compression fractures.  No osteolytic 
lesions at the level of the ribs, the sternum, or the vertebral 
bodies.  The pleural effusion on the right has almost completely 
resolved.  The small effusion on the left persists but the 
previous consolidation in the left lower lobe is improved as 
compared to the previous examination.  However, both the number 
and the size of pulmonary nodules, predominantly in the upper 
and middle zones of the lung, has substantially increased.  The 
relatively diffuse appearance of these changes as well as the 
upper lobe and middle lobe predominance favors infectious 
disease or inflammatory disease over malignancy.  The large 
airways are patent. 
  
IMPRESSION:  
  
The increase in number and size of pre-existing pulmonary 
nodules, 
predominating in the upper and middle lung zones.  The 
distribution and 
morphology of the nodules favors infection or inflammation over 
metastatic or malignant disease.  Interval decrease in size of 
the pre-existing mediastinal lymphadenopathy.  Near complete 
resolution of the previous right pleural effusion.  Mild 
decrease of the left lower lobe consolidation. 

MICRO:
======
___ 04:03PM URINE Hours-RANDOM Na-42
___ 04:03PM URINE Osmolal-294

DISCHARGE LABS:
==============
___ 05:15AM BLOOD WBC-8.2 RBC-1.99* Hgb-7.4* Hct-22.5* 
MCV-113* MCH-37.2* MCHC-32.9 RDW-16.8* RDWSD-67.2* Plt Ct-85*
___ 05:15AM BLOOD Plt Ct-85*
___ 05:15AM BLOOD ___ PTT-34.8 ___
___ 05:15AM BLOOD Glucose-117* UreaN-44* Creat-1.0 Na-129* 
K-5.2* Cl-92* HCO3-28 AnGap-9*
___ 05:15AM BLOOD ALT-23 AST-75* AlkPhos-116* TotBili-2.7*
___ 05:15AM BLOOD Albumin-2.6* Calcium-7.8* Phos-2.5* 
Mg-2.2
___ 01:46PM BLOOD K-5.2*

 
Brief Hospital Course:
___ is a ___ woman with PMHx EtOH cirrhosis (most 
recent MELDNa 20, ___ Class C) c/b ascites, SBP on ppx, 
HE, HRS on midodrine, s/p roux-en-Y gastric bypass c/b recurrent 
anastomotic c/b strictures requiring multiple endoscopic 
dilations, and multiple abdominal surgeries for bowel 
anastomosis complications (including bowel perforation) now on 
TPN for nutrition who presents as direct admission for 
initiation of G tube feeds. 

ACTIVE ISSUES:
============
#Initiation of Enteral Nutrition: 
The patient has a long history of difficulties tolerating 
enteral feeding and has been on TPN since ___. She was admitted 
from clinic to begin G-tube feedings. Encouragingly, prior to 
this admission, she had been tolerating small amounts of daily 
PO intake at home. The patient tolerated uptritration of tube 
feeds to goal rate of 80cc/hr without nausea or worsening 
abdominal pain. She was transitioned to cycled tube feeds prior 
to discharge. Since she was tolerating the tube feeds well, 
accompanied by small amounts of PO intake, TPN was discontinued 
prior to discharge, and her PICC line for TPN was removed. She 
will be discharged to have home tube feeds arranged and will be 
meeting with a ___ at her home to do this on the afternoon of 
discharge.

#Hyponatremia
The patient developed hyponatremia to 127 after initiation of 
G-tube feeds. Suspected hypovolemia in the setting of cessation 
of TPN. Her diuretics (torsemide/spironolactone) were held, and 
her sodium slowly improved. It was 129 on the afternoon of 
discharge. She will be discharged still holding her PO diuretics 
for the time being as she is still somewhat on the dry side, but 
she was encouraged to weigh herself daily and restart her 
diuretic if she notices her weight going up by more than ___ 
pounds. She should follow up next week to have labs drawn which 
can be faxed to Dr. ___ at ___ ___.

#Persistent LUQ fistula at J-tube site: 
J tube removed during an admission in ___. Per notes 
during each of her prior admissions, this had been an ongoing 
issue complicated by infections at the site which were 
potentially responsible for an episode of bacteremia w/in the 
last few months. The J tube site did not appear actively 
infected on this admission, but as it was still draining, wound 
care was consulted. They chemically cauterized the site with 
silver nitrate. No further issues during this admission. 

#EtOH Cirrhosis: MELD-Na on last labs
 1)Ascites: Holding diuretics due to above issues with 
hyponatremia. Instructed the patient to restart her diuretics at 
a lower dose when her weight goes up by ___ pounds.
- Start torsemide 80 mg daily when up ___ pounds
- Start spironolactone 100 mg daily when up ___ pounds 
 2)SBP: Hx of prior episodes but little concern for currently
-Continued cipro ppx
 3)Nutrition: As above
 4)Varices: Last EGD ___ w/o evidence of varices.
 5)HE: Episodes in the past but currently w/o confusion or 
asterixis. Continued on lactulose/rifaximin

CHRONIC ISSUES:
==============
#Chronic abdominal pain: In the past has seen palliative care 
for ongoing abdominal pain. Her pain was at baseline on this 
admission. She was continued on her home tramadol and Dilaudid.

#Depression/anxiety: She continued her home escitalopram 20 mg 
daily.

#H/o seizures: She continued her home Levetiracetam 1000mg PO 
BID.

TRANSITIONAL ISSUES:
==================
DISCHARGE WEIGHT: 91.45 kg (201.61 lb) 
MEDICATIONS HELD: Torsemide 120 mg PO daily (restart at 80 mg 
daily), spironolactone 100 mg PO daily
-Patient with discharge Na of 129, thought to be ___ 
hypovolemia. Her diuretics were held, and she was instructed to 
start these again at a lower dose when her weight goes up ___ 
pounds (torsemide 80 mg PO daily, spironolactone 100 mg PO 
daily)
-Potassium stable on the day of discharge at 5.2. Patient needs 
chem 10 checked early next week and results sent to Dr. ___ at 
___ ___. Sent with prescription for these labs to be 
drawn ___. 
-CT Chest w/o contrast while inpatient showing interval increase 
in pulmonary nodules read as likely "infection or inflammation 
over metastatic or malignant disease." She remained asymptomatic 
here from a respiratory standpoint. Would consider follow up 
imaging in the next ___ months. 

# CODE: Presumed FULL
# CONTACT: Patient would like her boyfriend ___ to be her 
emergency contact ___. Her main healthcare proxies are 
her parents: ___ (mother), ___ (father) 
Phone number: ___.
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Ciprofloxacin HCl 500 mg PO DAILY 
4. LevETIRAcetam Oral Solution 1000 mg PO BID 
5. Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube 
6. Midodrine 10 mg PO TID 
7. Omeprazole 40 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY 
9. Rifaximin 550 mg PO BID 
10. Simethicone 40-80 mg PO QID:PRN gas pain 
11. Thiamine 100 mg PO DAILY 
12. Lactulose 30 mL PO Q6H 
13. Spironolactone 100 mg PO DAILY 
14. TraMADol 50 mg PO BID 
15. Multivitamins 1 TAB PO DAILY 
16. HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate 
17. Metoclopramide 5 mg PO TID 
18. Torsemide 120 mg PO DAILY 
19. Zolpidem Tartrate 5 mg PO QHS 
20. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
21. Bisacodyl ___ mg PO DAILY:PRN Constipation 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO BID:PRN Pain - Mild  
2.  Bisacodyl ___ mg PO DAILY:PRN Constipation  
3.  Ciprofloxacin HCl 500 mg PO DAILY  
4.  Escitalopram Oxalate 20 mg PO DAILY  
5.  FoLIC Acid 1 mg PO DAILY  
6.  HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate  
7.  Lactulose 30 mL PO Q6H  
8.  LevETIRAcetam Oral Solution 1000 mg PO BID  
9.  Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube  
10.  Metoclopramide 5 mg PO TID  
11.  Midodrine 10 mg PO TID  
12.  Multivitamins 1 TAB PO DAILY  
13.  Omeprazole 40 mg PO DAILY  
14.  Polyethylene Glycol 17 g PO DAILY  
15.  Rifaximin 550 mg PO BID  
16.  Simethicone 40-80 mg PO QID:PRN gas pain  
17.  Thiamine 100 mg PO DAILY  
18.  TraMADol 50 mg PO BID  
19.  Zolpidem Tartrate 5 mg PO QHS  
20. HELD- Spironolactone 100 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until your weight goes up 
___ pounds
21. HELD- Torsemide 120 mg PO DAILY  This medication was held. 
Do not restart Torsemide until your weight goes up ___ pounds. 
When this happens, restart torsemide at 80 mg PO daily.
22.Tube Feeds
Osmolite 1.5 @80ml/hr over 12 hours via G-tube.
Free water 50ml q6hrs
Dispense 1mo supply, 5 refills
23.Outpatient Lab Work
Hyponatremia: ___ ICD-9-CM Diagnosis Code 276.1

Please collect CBC, chem 10, LFTs, and coags and fax to ___ 
Hepatology (Dr. ___:
Fax - ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Alcoholic cirrhosis
-Status post roux-en-y complicated by strictures and 
gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to participate in your care.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted directly from clinic in order to start tube 
feeds.

WHAT HAPPENED WHILE I WAS HERE?
You were started on tube feeds, and you tolerated them well - 
without worsening nausea or stomach pain.
Your sodium was a little low. We think this is probably because 
you were dehydrated from changing around your TPN and tube feeds 
and being on a high dose of diuretics.

WHAT SHOULD I DO WHEN I GET HOME?
Please continue to take your medications as instructed.
Please stick to a low salt diet.
Please go to all of your scheduled doctor's appointments.
You should weigh yourself every day. If you notice your weight 
going up by ___ pounds over the course of a couple of days, you 
should start taking your diuretics (torsemide 80 mg daily and 
spironolactone 100 mg daily). You should also follow up with 
your PCP and with Dr. ___ in ___ ___.

We wish you the best!
Sincerely,
Your ___ Liver Team
 
Followup Instructions:
___